US03953601
PREPARATION OF 4-HYDROXYDIBENZOTHIOPHENE
Dibenzothiophene (18.4 g, 0.10 mole) and N,N,N',N'-tetramethylethylenediamine (14.0 g, 0.12 mole) were dissolved in 200 ml dry ether. Butyl lithium (0.1 mole) in ether was added dropwise under stirring at room temperature. The reaction mixture was then refluxed for 1 hour. The mixture was cooled to -70°C and freshly distilled tributyl borate (23.0 g, 0.10 mole) was added. After stirring for 2 hours the solution was allowed to warm up to room temperature. Perhydrol (19 ml) was added dropwise and the mixture was refluxed for 1.5 hours. Hydrochloric acid was added and the ether was separated. The ether was washed with 10 % ferrous ammonium sulphate solution and then extracted with sodium hydroxide solution. The alkaline aqueous solution was acidified and extracted with ether, which after evaporation gave 11.4 g (57 %) beige crystals. Recrystallization from aqueous methanol gave light-brownish needles with m.p. 167°-168°.

reactant | Dibenzothiophene | 0.10 mole, 18.4 g | C1=CC=CC=2SC3=C(C21)C=CC=C3 | C12H8S
reactant | N,N,N',N'-tetramethylethylenediamine | 0.12 mole, 14.0 g | CN(CCN(C)C)C | C6H16N2
reactant | Butyl lithium | 0.1 mole | C(CCC)[Li]
reactant | tributyl borate | 0.10 mole, 23.0 g | B(OCCCC)(OCCCC)OCCCC | C12H27BO3
reactant | Perhydrol | 19 ml | OO | H2O2
reactant | Hydrochloric acid | Cl | ClH
solvent | ether | 200 ml | CCOCC | C4H10O
product | 4-HYDROXYDIBENZOTHIOPHENE | 11.4 g, 57 % | OC1=CC=CC2=C1SC1=C2C=CC=C1 | C12H8OS
